US07361763B2
630 mg (1.90 mmol) of 5-bromo-2-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-nicotinic acid was suspended in 50 ml of dichloromethane. 6 ml of 2 M dimethylamine in THF and 850 mg (1.63 mmol) of benzotriazol-1-yl-oxytripyrrolidinophosphonium hexafluorophosphate were added and the resulting mixture was stirred for 18 h at ambient temperature. The resulting mixture was diluted with dichloromethane and washed with water. The aqueous phase was extracted with dichloromethane and the organic phases were combined, dried over sodium sulfate and evaporated to afford crude 5-bromo-2-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-N,N-dimethyl-nicotinamide as a pale brown oil containing tris(pyrrolidinyl)phosphoramidate as a contaminant. MS: m/z 357 [MH+].

reactant | 5-bromo-2-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-nicotinic acid | 1.90 mmol, 630 mg | BrC=1C=NC(=C(C(=O)O)C1)N1CCN(CC1)CCO | C12H16BrN3O3
reactant | dimethylamine | 2 M, 6 ml | CNC | C2H7N
reactant | benzotriazol-1-yl-oxytripyrrolidinophosphonium hexafluorophosphate | 1.63 mmol, 850 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | 5-bromo-2-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-N,N-dimethyl-nicotinamide | BrC=1C=NC(=C(C(=O)N(C)C)C1)N1CCN(CC1)CCO | C14H21BrN4O2
